US07468446B2
Potassium hydroxide (0.21 g, 3.7 mmol) was added to a mixture of (3,5-dimethoxy-phenyl)-(1H-indol-6-yl)-methanone (0.69 g, 2.5 mmol) in DMF (7 mL) at 0° C. followed by addtion of iodomethane (0.2 mL, 2.7 mmol) and stirred at 0° C. for 2 hours. The mixture was diluted with ether (15 mL) and washed with brine (2×10 mL). The organic phase was dried over MgSO4, concentrated and purified via flash column chromatography (EtOAc/Hexane) to give (3,5-dimethoxy-phenyl)-(1-methyl-1H-indol-6-yl)-methanone as an off-white solid (0.54 g, 75% yield): 1H NMR (DMSO-d6) δ 3.80 (s, 6H, 20CH3), 3.85 (s, 3H, NCH3), 6.55 (d, J=3 Hz, 1H, Ar), 6.78 (t, J=2 Hz, 1H, Ar), 6.83 (d, J=2 Hz, 2H, Ar), 7.47 (d, J=2 Hz, 1H, Ar), 7.61 (d, J=3 Hz, 1H, Ar), 7.68 (d, J=8 Hz, 1H, Ar), 7.90 (brs, 1H, Ar). The product was used in the next step without further purification.

reactant | Potassium hydroxide | 3.7 mmol, 0.21 g | [OH-].[K+]
reactant | (3,5-dimethoxy-phenyl)-(1H-indol-6-yl)-methanone | 2.5 mmol, 0.69 g | COC=1C=C(C=C(C1)OC)C(=O)C1=CC=C2C=CNC2=C1 | C17H15NO3
reactant | iodomethane | 2.7 mmol, 0.2 mL | IC | CH3I
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
solvent | ether | 15 mL | CCOCC | C4H10O
product | (3,5-dimethoxy-phenyl)-(1-methyl-1H-indol-6-yl)-methanone | 0.54 g, 75% yield | COC=1C=C(C=C(C1)OC)C(=O)C1=CC=C2C=CN(C2=C1)C | C18H17NO3
